US08076329B2
A suspension of potassium cyanide (36 g) in a solution of (2R,4R)-2,4-pentanediol dimethanesulfonate (36 g) dissolved in acetonitrile (77 mL) is stirred overnight under reflux. The mixture is partitioned between dichloromethane (200 mL) and water (150 mL). The organic layer is extracted six times with dichloromethane. The combined organic extracts are dried over magnesium sulphate, concentrated under reduced pressure and purified by chromatography over silica gel using a gradient heptane/ethyl acetate from 4/1 to 2/1 to give 8.3 g of (2S,4S)-2,4-dimethylpentanedinitrile as a yellow solid used without further purification.

reactant | potassium cyanide | 36 g | [C-]#N.[K+]
reactant | (2R,4R)-2,4-pentanediol dimethanesulfonate | 36 g | CS(=O)(=O)O[C@H](C)C[C@@H](C)OS(=O)(=O)C | C7H16O6S2
reactant | acetonitrile | 77 mL | C(C)#N | C2H3N
product | (2S,4S)-2,4-dimethylpentanedinitrile | 8.3 g | C[C@H](C#N)C[C@@H](C#N)C | C7H10N2
